data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Brc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(Br)cc2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(Br)cc2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(Br)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(Br)cc1", "products": "O=C1CCN2C[C@H](OCc3ccc(Br)cc3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)CCl)c([Si](C)(C)C)c2F", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)C)c([Si](C)(C)CCl)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)C)c([Si](C)(C)CCl)cc1=C", "products": "C[C@]12CC[C@@H]3c4c(cc([Si](C)(C)CCl)c([Si](C)(C)C)c4F)CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(F)C(F)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(F)C1(F)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(F)C1(F)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(F)C1(F)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(F)C1(F)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(F)C1(F)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(C)c1Cl)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(C)c1Cl)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(C)c1Cl)C(C)C", "products": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1Cl"}, {"reactants": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1Cl", "products": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1Cl"}, {"reactants": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1Cl.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1Cl"}, {"reactants": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1Cl", "products": "Cc1cccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1Cl.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(Br)CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(Br)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(Br)C1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(Br)C1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(Br)C1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(Br)C1CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)CF)c2OC", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)CF)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)CF)c([Si](C)(C)C)cc1=C", "products": "COc1c2c(cc([Si](C)(C)C)c1[Si](C)(C)CF)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1cccc(Br)c1)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1cccc(Br)c1)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1cccc(Br)c1)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1cccc(Br)c1)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1cccc(Br)c1)C2(C)C", "products": "C[C+]1C2(c3cccc(Br)c3)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3cccc(Br)c3)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2cccc(Br)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(Br)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cccc(Br)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(Br)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2cccc(Br)c2)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2cccc(Br)c2)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3cccc(Br)c3)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3cccc(Br)c3)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3cccc(Br)c3)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(Cl)C(C)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(Cl)C(C)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(Cl)C(C)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(Cl)C(C)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(Cl)C(C)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(Cl)C(C)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
